US07566721B2
2-Phenylquinoline-7-carbaldehyde
A mixture of 7-methyl-2-phenylquinoline (2.49 g, 11.4 mmol) and selenium dioxide (1.92 g, 17.3 mmol, 1.5 equiv.) was heated to 160° C. (bath temp.) for 22 h. The cooled melt was suspended in CH2Cl2 with the aid of sonication and filtered through Celite and then through a plug of silica gel. This effectively removed the red color and the major lower spots. The material thus obtained was crystallized from hexanes/CHCl3, yielding the title compound as pale beige solid, mp. 108° C. The mother liquor was concentrated and chromatographed on silica gel [Jones Flashmaster, 50 g/150 mL cartridge, eluting with hexanes:CH2Cl2 1:1 (1-25)→1:3 (26-53)→CH2Cl2 (54-73)→3% EtOAc in CH2Cl2 (74-85)], yielding an additional batch of the title compound as pale yellow solid, mp. 109° C. 1H NMR (CDCl3, 400 MHz): δ=7.48-7.60 (m, 3H), 7.94 (d, J=8.8 Hz, 1H), 8.01-8.05 (m, 2H), 8.18-8.23 (m, 2H), 8.29 (d, J=8.8 Hz, 1H), 8.64 (s, 1H), 10.26 (s, 1H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): δ=121.22 (+), 122.80 (+), 127.51 (2C, +), 128.65 (+), 128.94 (2C, +), 129.83 (+), 130.69 (Cquart), 135.84 (+), 136.68 (+), 137.21 (Cquart), 138.79 (Cquart) 147.91 (Cquart), 158.48 (Cquart), 192.14 (+). IR (film): v=3059 cm−1, 3034, 2824, 2717, 1954, 1812, 1684, 1601, 1554, 1510, 1491, 1448, 1420, 1392, 1320, 1280, 1168, 1145, 1120, 1075, 1052, 1025, 971, 926, 897, 850, 812, 787, 757, 692, 673, 627. MS (ES+): m/z 234.2 (100) [MH+]. HPLC: tR=3.0 min (MicromassZQ, nonpolar—5 min).

reactant | 7-methyl-2-phenylquinoline | 11.4 mmol, 2.49 g | CC1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C16H13N
reactant | selenium dioxide | 17.3 mmol, 1.92 g, 1.5 equiv. | [Se](=O)=O | O2Se
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Phenylquinoline-7-carbaldehyde | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=O | C16H11NO
